US08207180B2
8-Amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester (N6)
To a solution of 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester XXVIA (4.67 mmol) in DMF (20 mL), N,N-dimethylformamide di -tert-butyl acetal (2 mL) was added and the solution was stirred at 100° C. overnight. After cooling to rt guanidine hydrochloride (14 mmol) and K2CO3 (14 mmol) were added and the mixture was heated at 100° C. for 24 h. The organic solvent was evaporated to dryness. Chromatography on silica gel (AcOEt/hexane 1:1) afforded the title compound (80% yield). ESI (+) MS: m/z 373 (MH+). 1H NMR: 1.28 (t, J=7.07, 3H), 1.55 (s, 9H), 2.68 (t, J=7.80, 2H), 2.79 (t, J=7.80, 2H), 4.18 (s, 3H), 4.23 (q, J=7.07, 2H), 6.40 (bs, 2H), 7.97 (s, 1H).

reactant | 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1=C(N(C=2C(CCCC12)=O)C)C(=O)OC(C)(C)C | C17H23NO5
reactant | N,N-dimethylformamide di -tert-butyl acetal | 2 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | guanidine hydrochloride | 14 mmol | Cl.NC(=N)N
reactant | K2CO3 | 14 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 8-Amino-1-methyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-2,3-dicarboxylic acid 2-tert-butyl ester 3-ethyl ester | 80% yield | C(C)OC(=O)C1=C(N(C2=C1CCC1=CN=C(N=C21)N)C)C(=O)OC(C)(C)C | C19H24N4O4
